US05866684
A solution of 6.6 g (18.7 mmol) of N-[(9-fluorenyl)-methoxycarbonyl]-L-leucine and 9.7 g (18.7 mmol) of 7-azabenzotriazol-1-yloxytris(pyrrolidino)phosphonium hexafluorophosphate in 50 ml of anhydrous dichloromethane was stirred at room temperature for 15 minutes. To this mixture were then added 6.0 g (12.4 mmol) of ethyl 5-[4-[[3,3,3-trifluoro-1(RS)-(dimethoxymethyl)propylamino]methyl]-3,5-dimethoxyphenoxy]valerate and 4.3 ml of (24.8 mmol) diisopropylethylamine. After stirring overnight at 250C the mixture was diluted with dichloromethane and washed in sequence with water, 10% citric acid solution, saturated sodium hydrogen carbonate solution and saturated sodium chloride solution, then dried over anhydrous magnesium sulphate andfiltered. The solvent was removed by evaporation and the residue was chromatographed on silica gel using 30% ethyl acetate in hexane for the elution. There were obtained 8.06 g of ethyl 5-[4-[[N-[N-[(9-fluorenyl)methoxycarbonyl]-L-leucyl]-N-[3,3,3-trifluoro-1(RS)-(dimethoxymethyl)propyl]amino]methyl]-3,5-dimethoxyphenoxy]valerate; MS: m/e 839.4 [M+Na], 855.3 [M+K].

reactant | N-[(9-fluorenyl)-methoxycarbonyl]-L-leucine | 18.7 mmol, 6.6 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(C)C)C(=O)O | C21H23NO4
reactant | 7-azabenzotriazol-1-yloxytris(pyrrolidino)phosphonium hexafluorophosphate | 18.7 mmol, 9.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | ethyl 5-[4-[[3,3,3-trifluoro-1(RS)-(dimethoxymethyl)propylamino]methyl]-3,5-dimethoxyphenoxy]valerate | 12.4 mmol, 6.0 g | FC(CC(C(OC)OC)NCC1=C(C=C(OCCCCC(=O)OCC)C=C1OC)OC)(F)F | C22H34F3NO7
reactant | diisopropylethylamine | 24.8 mmol, 4.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 5-[4-[[N-[N-[(9-fluorenyl)methoxycarbonyl]-L-leucyl]-N-[3,3,3-trifluoro-1(RS)-(dimethoxymethyl)propyl]amino]methyl]-3,5-dimethoxyphenoxy]valerate | 8.06 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(C)C)C(=O)N(C(CC(F)(F)F)C(OC)OC)CC1=C(C=C(OCCCCC(=O)OCC)C=C1OC)OC | C43H55F3N2O10
